US09315683B2
Sodium (4-(4-aminobenzenesulfonylamino)-1-hydroxybutane-1,1-diyl)bisphosphonate was synthesized using sodium alendronate. On this occasion, as the sodium alendronate, monosodium salt of (4-amino-1-hydroxybutane-1,1-diyl)bisphosphonic acid (manufactured by Zentiva) was used. An alendronate (34 g: 104 mmol) was added to 150 mL of pure water in a 500-mL beaker and was dissolved by adjusting the pH to 11 with an aqueous concentrated sodium hydroxide solution. To this solution was dropwise added nitrophenyl sulfonyl chloride (25 g: 110 mmol) dissolved in 100 mL of tetrahydrofuran. On this occasion, an aqueous sodium hydroxide solution was further added thereto to maintain the pH of the solution to 10 to 11. After completion of adding, this solution was stirred at room temperature for 2 hours. Subsequently, tetrahydrofuran was evaporated in vacuum, and the solution was adjusted to a pH of 4 to precipitate a solid, followed by cooling at 4 degrees Celsius overnight. Subsequently, the solid was collected by filtration and was washed with pure water and then dried to yield sodium (4-(4-aminobenzenesulfonylamino)-1-hydroxybutane-1,1-diyl)bisphosphonate.

reactant | sodium alendronate | C(CC(O)(P(=O)(O)O)P(=O)(O)[O-])CN.[Na+]
reactant | monosodium | [Na] | Na
reactant | (4-amino-1-hydroxybutane-1,1-diyl)bisphosphonic acid | NCCCC(O)(P(O)(O)=O)P(O)(O)=O | C4H13NO7P2
reactant | alendronate | 104 mmol, 34 g | C(CC(O)(P(=O)(O)O)P(=O)(O)O)CN | C4H13NO7P2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | nitrophenyl sulfonyl chloride | 110 mmol, 25 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | sodium (4-(4-aminobenzenesulfonylamino)-1-hydroxybutane-1,1-diyl)bisphosphonate | NC1=CC=C(C=C1)S(=O)(=O)NCCCC(O)(P([O-])([O-])=O)P([O-])([O-])=O.[Na+].[Na+].[Na+].[Na+] | InChI=1S/C10H18N2O9P2S.4Na/c11-8-2-4-9(5-3-8)24(20,21)12-7-1-6-10(13,22(14,15)16)23(17,18)19;;;;/h2-5,12-13H,1,6-7,11H2,(H2,14,15,16)(H2,17,18,19);;;;/q;4*+1/p-4
